* File: AOI21.pex.netlist.pex
* Created: Thu Mar 27 20:07:57 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 27C
* 
.subckt PM_AOI21%GND! 7 29 34 35 48 76
c2 34 0 0.00956907f
r3 76 81 0.0617284
r4 71 81 12.9918
r5 68 71 1.66667
r6 64 68 6.66667
r7 61 81 2.99177
r8 61 64 1.66667
r9 29 71 17.142
r10 29 48 77.6786
r11 22 68 12.142
r12 22 35 71.5823
r13 15 61 13.8086
r14 15 34 71.5823
r15 7 68 3.41493
r16 7 22 0.431548
r17 7 29 138.187
r18 5 64 2.27662
r19 5 7 137.755
r20 5 15 69.3091
.ends

.subckt PM_AOI21%VDD! 23 31 36 64
c2 23 0 0.0176401f
r3 64 68 0.555556
r4 58 68 12.9918
r5 56 58 1.66667
r6 52 56 6.66667
r7 49 68 2.99177
r8 49 52 1.66667
r9 23 58 17.142
r10 23 36 77.6786
r11 15 49 13.8086
r12 15 31 71.5823
r13 7 56 3.41493
r14 7 23 138.187
r15 5 52 2.27662
r16 5 15 69.3091
r17 5 7 137.755
.ends

.subckt PM_AOI21%C 6 7 24
c0 7 0 0.00211447f
r1 2 24 24.6389
r2 2 7 310.982
r3 2 6 310.982
.ends

.subckt PM_AOI21%B 6 7 24
c2 7 0 0.00268699f
r3 2 24 24.6389
r4 2 7 310.982
r5 2 6 310.982
.ends

.subckt PM_AOI21%A 6 7 24
c1 7 0 0.00281527f
r2 2 24 24.6389
r3 2 7 310.982
r4 2 6 310.982
.ends

.subckt PM_AOI21%NET2 13 14 15
c1 14 0 0.00773856f
r2 2 13 6.2963
r3 2 14 6.2963
r4 2 15 74.4237
.ends

.subckt PM_AOI21%OUT 13 14 17 18 40 49
c3 14 0 0.00993936f
r4 40 49 18.5679
r5 11 40 33.2108
r6 11 17 6.2963
r7 11 18 6.2963
r8 2 13 6.2963
r9 2 14 6.2963
r10 2 40 36.5441
.ends

.subckt PM_AOI21%NET3 5 6
c1 6 0 0.00434545f
r2 5 6 12.5926
.ends

