* File: AOI22.pex.netlist.pex
* Created: Thu Mar 27 20:11:32 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 27C
* 
.subckt PM_AOI22%GND! 9 28 33 34 47 80
c3 33 0 0.00957173f
r4 85 87 10
r5 80 85 0.0617284
r6 75 87 22.2469
r7 73 87 2.99177
r8 73 75 8.33333
r9 68 73 1.66667
r10 65 68 6.66667
r11 62 85 2.99177
r12 62 65 1.66667
r13 28 75 12.142
r14 28 47 77.6786
r15 16 62 13.8086
r16 16 33 71.5823
r17 9 34 72.0139
r18 9 28 138.187
r19 7 68 3.41493
r20 7 9 68.8775
r21 5 65 2.27662
r22 5 7 137.755
r23 5 16 69.3091
.ends

.subckt PM_AOI22%VDD! 11 22 30 31 35 63
c3 22 0 0.0303694f
r4 67 69 10
r5 63 67 0.555556
r6 57 69 22.2469
r7 55 57 6.66667
r8 53 69 2.99177
r9 53 55 1.66667
r10 50 67 4.65844
r11 50 53 8.33333
r12 22 57 12.142
r13 22 35 77.6786
r14 14 50 12.142
r15 11 30 6.2963
r16 11 31 6.2963
r17 11 14 66.0268
r18 6 55 2.27662
r19 6 22 138.187
r20 2 50 2.27662
r21 2 14 0.431548
r22 2 6 206.633
.ends

.subckt PM_AOI22%C 6 7 24
c0 7 0 0.00213318f
r1 2 24 24.6389
r2 2 7 310.982
r3 2 6 310.982
.ends

.subckt PM_AOI22%D 6 7 24
c1 7 0 0.00275942f
r2 2 24 24.6389
r3 2 7 310.982
r4 2 6 310.982
.ends

.subckt PM_AOI22%B 6 7 24
c2 7 0 0.00277014f
r3 2 24 24.6389
r4 2 7 310.982
r5 2 6 310.982
.ends

.subckt PM_AOI22%A 6 7 24
c1 7 0 0.00289842f
r2 2 24 24.6389
r3 2 7 310.982
r4 2 6 310.982
.ends

.subckt PM_AOI22%NET1 19 20 21 22 35
c2 21 0 0.0110901f
r3 22 35 42.4599
r4 19 35 42.4599
r5 8 20 6.2963
r6 8 21 6.2963
r7 8 35 30.2377
.ends

.subckt PM_AOI22%OUT 13 14 17 18 40 49
c3 14 0 0.00993936f
r4 40 49 18.5679
r5 11 40 33.2108
r6 11 17 6.2963
r7 11 18 6.2963
r8 2 13 6.2963
r9 2 14 6.2963
r10 2 40 36.5441
.ends

.subckt PM_AOI22%NET4 5 6
c0 6 0 0.00434545f
r1 5 6 12.5926
.ends

.subckt PM_AOI22%NET6 5 6
c1 6 0 0.00434545f
r2 5 6 12.5926
.ends

