************************************************************************
* auCdl Netlist:
* 
* Library Name:  Std_cells
* Top Cell Name: AOI21
* View Name:     schematic
* Netlisted on:  Mar 27 20:07:41 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: Std_cells
* Cell Name:    AOI21
* View Name:    schematic
************************************************************************

.SUBCKT AOI21 A B C OUT
*.PININFO A:I B:I C:I OUT:O
MM6 net2 C vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM1 OUT A net2 vdd! pmos_rvt w=108.00n l=20n nfin=4
MM0 OUT B net2 vdd! pmos_rvt w=108.00n l=20n nfin=4
MM5 OUT C gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM4 net3 A gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM3 OUT B net3 gnd! nmos_rvt w=108.00n l=20n nfin=4
.ENDS

